US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and 1-acetylpiperazine to give 1-{4-[1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carbonyl]-piperazin-1-yl}-ethanone. LC-MS: m/e 437 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 1-{4-[1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carbonyl]-piperazin-1-yl}-ethanone | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)C(C)=O)NC1=NNC(=C1)C | C23H28N6O3
